US08236806B2
1-(3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propyl)-4-phenylpiperazine (Compound 1)
3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propanal (80 mg, 312 mmol) and 1-phenylpiperazine (0.047 mL, 0.312 mmol) were dissolved in 5 mL of CH2Cl2, and then 0.7 g of 4 Å molecular sieve powder was added thereto and stirred. Diisopropylethylamine (DIPEA; 54 mL, 0.312 mmol) was slowly added thereto, and stirred for 30 min at room temperature. Then, NaBH(OAc)3 (231 mg, 1.092 mmol) was added thereto and stirred for 12 hours at room temperature. The reaction progress and completion were confirmed by TLC. Upon completion of the reaction, water (0.1 mL) was added to the reaction mixture and then stirred for 3 min. 81 mg (64%) of target compound was obtained via column chromatography (EtOAc:Hexane=4:1, v/v).

reactant | 3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propanal | 312 mmol, 80 mg | C(C)(C)(C)N1N=C(C=C1C1=CC=CC=C1)CCC=O | C16H20N2O
reactant | 1-phenylpiperazine | 0.312 mmol, 0.047 mL | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | Diisopropylethylamine | 0.312 mmol, 54 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 1.092 mmol, 231 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 0.1 mL | O | H2O
product | 1-(3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propyl)-4-phenylpiperazine | C(C)(C)(C)N1N=C(C=C1C1=CC=CC=C1)CCCN1CCN(CC1)C1=CC=CC=C1 | C26H34N4
